US06521754B2
(5-Methoxy-biphenyl-3-yl)-thiourea
1-Benzoyl-3-(5-methoxy-biphenyl-3-yl)-thiourea (183 mg, 0.51 mmol) in methanol (5 ml) are treated with sodium methoxide (5.4M in methanol, 0.14 ml) and the formed precipitate is filtered off. Washing with methanol yields the product (115 mg, 88%) as off-white powder. MS: m/e=258 (M+).

reactant | 1-Benzoyl-3-(5-methoxy-biphenyl-3-yl)-thiourea | 0.51 mmol, 183 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C21H18N2O2S
reactant | sodium methoxide | 5.4M, 0.14 ml | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (5-Methoxy-biphenyl-3-yl)-thiourea | 115 mg, 88% | COC=1C=C(C=C(C1)C1=CC=CC=C1)NC(=S)N | C14H14N2OS
